Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ with PMH of NIDDM, smoking,
CAD s/p MI (___), PCI in ___ at ___ who presents as transfer
from ___ with NSTEMI. 
  
 Pain started on ___ morning while at work as a ___ 
___.
Per pt, pain similar to chest pain from previous MI. Episodic
pain lasting ~15 mins. Per pt, not currently on sublingual
nitroglycerin. Pain epigastric, shartp, ___, and radiates
episodically to R or L chest. No diaphoresis, nausea, vomiting,
or chest pressure.
  
 Went to ___ where he had trop elevated to 0.131. He AMA'd after
not feeling staff were addressing his needs.  

At ___: s/p 4x ASA 81, 4,000U IV heparin @ ___ 140-160s systolic
Cr 1.4
Trop I 0.10

 During initial eval, had brief episode of CP lasting a few
seconds that resolved. CP free currently. Denies headache,
dizziness, fever, chills, SOB, abdominal pain, nausea vomiting,
or dysuria.  
 
In the ED initial vitals were: 98 82 184/99 14 100% RA  
 ED Exam:  
 Gen: NAD  
 HEENT: PERRLA, EOMI, MMM, oropharynx clear  
 Lungs: bibasilar crackles, otherwise CTAB  
 CV: RRR, no murmurs  
 Abd: soft NTND  
 Ext: WWP, no edema  
 
EKG (___)- J point elevation in T2& V3 without reciprocal
changes.  

 Labs notable for:  
 1) CBC 10.4, Hb 16.5, plt 189  
 2) BNP 16  
 3) Trop-T <0.01 x2  
 4) BMP: Na 143, K 4.1, Cl 103, HCO3 21, BUN 17, Cr 1.3, AG 19  
 5) Coags: INR 1.2, PTT 150  
 6) U/A: negative bacteria/nitr, 2 WBC, 0 RBC  
 
Patient was given:  
 ___ 17:13 IV Heparin 900 units/hr  
 ___ 19:14 IV Heparin Stopped As Directed  
 ___ 20:20 IV Heparin Restarted 500 units/hr  
 
Vitals on transfer: ___ pain 97.6 72 173/94 23 98% RA  
 
On the floor: 

He reports he presented initially to ___, and from there went to
___.
He reports his chest pain started after he had gone to see his
sister. He reports he was sitting in his car, and all of a 
sudden
he felt like his heart was beating fast with some pressure. He
reports this pain radiated upward. 
He reports that he did nothing for the pain at that time, and
drove to ___. He reports the pain came and went a few more 
times.

He reports he was given some medications. 
He reports that this pain lasts about 20 minutes and then goes
away.

He reports that he is not currently having any pain or pressure
for at least a few hours. 

Denies dizziness, lightheadedness. Denies pain elsewhere except
for some pain in the back of his neck with extension which is
new. Denies blurry or double vision. Denies SOB. 
Denies f/c, nausea, vomiting, diarrhea, constipation. 
Denies recent infections. Denies DOE. Denies syncope. 

He reports remote history of MI (___) and catheterization with
stent placement at ___. 

REVIEW OF SYSTEMS:  
 Positive per HPI.  

 
Past Medical History:
 1. CARDIAC RISK FACTORS  
- NIDDM
-Tobacco use

 2. CARDIAC HISTORY  
- CAD s/p MI (___)
- PCI in ___ at ___
 
 3. OTHER PAST MEDICAL HISTORY  
-None
 
Past surgical history: 
cyst removal (unknown date)
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death.  
 
Physical Exam:
Admission

Vital Signs:  2345 98.2 PO 150 / 84 L Sitting 95 18 94 Ra 
General: Patient is well appearing in no acute distress,
cooperative with exam.  Laying flat in bed without difficulty.
Eyes: no conjunctival injection or scleral icterus.
Head, ears, nose, and throat: Normocephalic.  Atraumatic. 
Ears grossly normal bilaterally. Nose grossly normal. MMM
Neck: Supple with full ROM.  Does experience pain with
hyperextension of neck, however full range of motion with no
stiffness.  Some muscular tenderness in bilateral cervical 
spine.
No bony deformities.  JVP not elevated.
Respiratory/chest: No respiratory distress, speaks in full
sentences.  Crackles noted in lung bases bilaterally, no wheezes
noted.
Cardiovascular: RRR no m/r/g, normal S1/S2
Gastrointestinal: Abdomen is soft.  No distension.  + bowel
sounds.  No tenderness. No rebound.
Back: No tenderness. No CVAT
Musculoskeletal: Normal muscle tone, moving all extremities.  No
calf tenderness.  No lower extremity edema.
Skin: Warm and well perfused.  No obvious rash.  No obvious
erythema/ecchymosis.
Neurologic: Alert and oriented x 3, no focal deficits.

Discharge

Vital Signs:  97.4 PO 148 / 83 83 20 99 Ra 
General: comfortable, lying in bed, flat, without difficulty
breathing

Neck: Supple w/ JVP not elevated.
Respiratory/chest: CTAB
Cardiovascular: RRR no m/r/g, normal S1/S2
Gastrointestinal: Abdomen is soft.  NTND, +BS
Extremities: no ___, WWP 
Neurologic: Alert and oriented x 3, moving all extremities with
purpose
 
Pertinent Results:
Studies

Stress test ___

% MAX HRT RATE ACHIEVED:  89

IMPRESSION: Poor exercise tolerance with the test being 
terminated 
secondary to an exaggerated systolic blood pressure response 
with 
exercise. No anginal symptoms or ischemic ST segment changes. 
Echo 
report sent separately. 

TTE ___

The patient exercised for 4 minutes and 30 seconds according to 
a Modified ___ treadmill protocol ___ METS) reaching a peak 
heart rate of 142 bpm and a peak blood pressure of 256/80 mmHg. 
The test was stopped because of a hypertensive response. This 
level of exercise represents a poor exercise tolerance for age 
and gender. In response to stress, the ECG showed no ST-T wave 
changes (see exercise report for details). with an abnormal 
increase in blood pressure/hypertensive response and a normal 
heart rate response to stress. 
 .
 Resting images were acquired at a heart rate of 63 bpm and a 
blood pressure of 170/96 mmHg. These demonstrated normal 
regional and global left ventricular systolic function. Right 
ventricular free wall motion is normal. There is no pericardial 
effusion. Doppler demonstrated no aortic stenosis, aortic 
regurgitation or significant mitral regurgitation or resting 
LVOT gradient. .

 Echo images were acquired within 46 seconds after peak stress 
at heart rates of 131 - 108 bpm. These demonstrated appropriate 
augmentation of all left ventricular segments with slight 
decrease in cavity size. There was augmentation of right 
ventricular free wall motion. 

 IMPRESSION: Test stopped because of hypertension. No ECG or 2D 
echocardiographic evidence of inducible ischemia to achieved 
workload. Marked hypertensive response to exercise.

Admission labs

___ 04:47PM BLOOD WBC-10.4* RBC-5.76 Hgb-16.5 Hct-49.5 
MCV-86 MCH-28.6 MCHC-33.3 RDW-15.4 RDWSD-47.5* Plt ___
___ 04:47PM BLOOD Neuts-37 Bands-0 ___ Monos-8 Eos-1 
Baso-0 Atyps-3* ___ Myelos-0 AbsNeut-3.85 AbsLymp-5.62* 
AbsMono-0.83* AbsEos-0.10 AbsBaso-0.00*
___ 05:06PM BLOOD ___ PTT-150* ___
___ 04:47PM BLOOD Glucose-154* UreaN-17 Creat-1.3* Na-143 
K-4.1 Cl-103 HCO3-21* AnGap-19*
___ 05:57AM BLOOD ALT-20 AST-22 LD(LDH)-216 AlkPhos-77 
TotBili-0.5
___ 04:47PM BLOOD cTropnT-<0.01 proBNP-16
___ 05:06PM BLOOD proBNP-16
___ 05:06PM BLOOD cTropnT-<0.01
___ 12:10AM BLOOD cTropnT-<0.01 proBNP-19
___ 04:47PM BLOOD Calcium-9.3 Phos-2.9 Mg-2.2

Discharge

___ 06:40AM BLOOD ___ PTT-35.1 ___
___ 06:40AM BLOOD Glucose-129* UreaN-20 Creat-1.2 Na-143 
K-4.3 Cl-103 HCO3-23 AnGap-17
___ 06:40AM BLOOD Calcium-9.4 Phos-3.6 Mg-2.___ with PMH of NIDDM, smoking, CAD s/p MI (___), PCI in ___ 
who presents as transfer from ___ with NSTEMI. 

ACUTE ISSUES: 
============= 
#NSTEMI
#CAD s/p PCI in ___
The patien's presentation in the setting of his significant 
coronary artery disease, status post PCI, and similarity of 
chest pain to prior episodes when he was diagnosed with MI, was 
consistent with an ischemic process underlying his chest pain. 
Elevated troponin at OSH prior to arrival was consistent with 
NSTEMI. Troponins at ___ were negative and EKGs after transfer 
negative for changes suggesting active ischemia. Given these 
negative findings, IV heparin was discontinued and the patient 
underwent a stress test for further risk stratification which 
was negative for anginal symptoms or ischemic ST segment changes 
in the setting of appropiate heart rate response to exercise. 
Given the stress test results, the decision was made to defer 
cardiac catheterization at this point. Aspirin and high dose 
atorvastatin were continued. In addition, the patient was 
started on metoprolol to optimize anti-anginal treatment and 
lisinopril for blood pressure management.

___
Cr 1.3 on admission, baseline unknown; improved to 1.2 in ED. 
Creatinine on discharge stable at 1.2. Potassium stable at 4.3. 
Please obtain BMP on follow up with one to two weeks to monitor 
renal function and potassium

CHRONIC ISSUES: 
=============== 
#Hypertension
The patient had been on lisinopril as an outpatient in the past 
(but wasn't taking any his medications for several months prior 
to admission). No anti-hypertensives were given on admission in 
setting of initial ___ and potential catheterization. Systolic 
blood pressures were subsequently between 150-160 and the 
patient was started on Lisinopril 10mg dialy.
- Follow-up as an outpatient with uptitration of 
anti-hypertensives as tolerated is recommended. 

#Non-insulin dependent diabetes
A1c 6.7% on labs ___ at ___. Patient does not report any
medications to treat this issue at this time. Not started on 
Metformin as he was newly started on Lisinopril with possible 
worsening of his renal function 
- Metformin should be started as an outpatient if his renal 
function allows

TRANSITIONAL ISSUES
===================
[] Discharge Creatinine 1.2; potassium on discharge 4.3 (both 
stable) [] Please repeat BMP within two weeks of discharge to 
ensure resolution ___ and to monitor potassium (newly started 
on Lisinopril)
[] Newly started on Lisinopril 20mg daily - follow-up blood 
pressure, consider uptitration of lisinopril as tolerated by 
renal function and electrolytes
[] Patient also started on Metoprolol succinate 25mg, aspirin 
81mg daily and atorvastatin 80mg daily during this admission; 
please continue this medications in the outpatient setting
[] Follow-up on blood sugar and HBA1c, consider initiating 
metformin going forward pending renal function

#CODE STATUS: FULL, confirmed 
#CONTACT: Silnola (sister) ___ 
 
Medications on Admission:
None
 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth QPM Disp #*30 Tablet 
Refills:*0 
3.  Lisinopril 20 mg PO DAILY 
RX *lisinopril 20 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
4.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnoses:
#Unstable angina
#CAD s/p PCI in ___
___

Secondary diagnoses:
#Hypertension
#Non-insulin dependent diabetes mellitus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

It was a pleasure taking care of you at ___!

Why was I admitted to the hospital?
- you had two episodes of chest pain that were similar in 
character to the pain you had in the past when you had a heart 
attack
- the current episodes were likely caused by a minor heart 
attack. You underwent a test that showed you were able to 
exercise appropriately. Therefore, you did not require any 
intervention at this point.
- You were started on medications to help prevent future 
episodes of chest pain

What should I do after discharge?
- Please take all the medications as prescribed (your were newly 
started on aspirin, metoprolol, lisinopril, and atorvastatin)
- Please follow up with your new PCP as below for further 
management of your blood pressure
- Please see an MD or go to the emergency department in case of 
recurrent or new symptoms

All the best,

Your ___ care team
 
Followup Instructions:
___